US07989091B2
1-(4′-phenylsulfonylphenyl)-3-methylbenzimidazolium tetrafluoroborate
A solution of 1-(4′-phenylsulfonylphenyl)benzimidazole (6.7 g, 20 mmol) in dichloromethane (100 ml) is admixed at −10° C. with trimethyloxonium tetrafluoroborate (3.3 g, 22 mmol) and stirred under argon for 16 h. After adding ethanol, the precipitate which forms is filtered off and washed with cold petroleum ether. Yield: 80%.

reactant | 1-(4′-phenylsulfonylphenyl)benzimidazole | 20 mmol, 6.7 g | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)N1C=NC2=C1C=CC=C2 | C19H14N2O2S
reactant | trimethyloxonium tetrafluoroborate | 22 mmol, 3.3 g | F[B-](F)(F)F.C[O+](C)C
reactant | ethanol | C(C)O | C2H6O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1-(4′-phenylsulfonylphenyl)-3-methylbenzimidazolium tetrafluoroborate | Yield: 80% | F[B-](F)(F)F.C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)[N+]1=CN(C2=C1C=CC=C2)C | InChI=1S/C20H17N2O2S.BF4/c1-21-15-22(20-10-6-5-9-19(20)21)16-11-13-18(14-12-16)25(23,24)17-7-3-2-4-8-17;2-1(3,4)5/h2-15H,1H3;/q+1;-1
